US05278161
In a manner analogous to that described in Example 1, by condensing 2-hydrazino-3-[(RS)-1-methylpropyl]-5-(3-pyridyl)pyrazine with diethyl methylmalonate there is obtained ethyl rac-α-methyl-8-[(RS)-1-methylpropyl]-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, MS: 353 (M)+, which by saponification analogously to Example 1 is converted into the above acid which is used directly in the next step.

reactant | 2-hydrazino-3-[(RS)-1-methylpropyl]-5-(3-pyridyl)pyrazine | N(N)C1=NC=C(N=C1C(CC)C)C=1C=NC=CC1 | C13H17N5
reactant | diethyl methylmalonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
product | ethyl rac-α-methyl-8-[(RS)-1-methylpropyl]-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | CC(C(=O)OCC)C1=NN=C2N1C=C(N=C2C(CC)C)C=2C=NC=CC2 | C19H23N5O2
